US08039472B2
4-[(Naphthalene-1-sulfonylamino)-methyl]-benzoic acid
4 N NaOH solution (30 ml) is added to a suspension of 4-(aminomethyl)benzoic acid (5.01 g, 31.82 mmol) in acetone (100 ml). Toluene (100 ml) is added and the reaction is heated at 40° C. to obtain dissolution. The solution is cooled to 0° C. and treated with 1-naphthalene sulfonyl chloride (12 g, 51.35 mmol) in acetone (100 ml) and the resulting reaction mixture is stirred for 3 hours. The reaction is acidified using citric acid and concentrated in vacuo. The residue is taken up in EtOAc and washed with water. The aqueous layer is back extracted with EtOAc and the combined organic layers are washed with water, brine, dried (Na2SO4) and the solvent removed in vacuo to yield a light brown solid. Trituration with Et2O yields the title compound.

reactant | NaOH | 4 N, 30 ml | [OH-].[Na+]
reactant | 4-(aminomethyl)benzoic acid | 31.82 mmol, 5.01 g | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | 1-naphthalene sulfonyl chloride | 51.35 mmol, 12 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | Et2O | CCOCC | C4H10O
solvent | Toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(Naphthalene-1-sulfonylamino)-methyl]-benzoic acid | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)NCC1=CC=C(C(=O)O)C=C1 | C18H15NO4S
